US09376443B2
3-{6-(Isopropyloxyethoxymethyl]pyridin-2-ylmethyl}-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
Prepared from 7-(5-methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and 2-bromomethyl-6-(isopropyloxyethoxymethyl)pyridine by the alkylation method described in Example 36.

reactant | 7-(5-methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | CC1=CC=C(O1)C=1C2=C(N=C(N1)N)N=NN2 | C9H8N6O
reactant | 2-bromomethyl-6-(isopropyloxyethoxymethyl)pyridine | BrCC1=NC(=CC=C1)COCCOC(C)C | C12H18BrNO2
product | 3-{6-(Isopropyloxyethoxymethyl]pyridin-2-ylmethyl}-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | C(C)(C)OCCOCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C21H25N7O3
